US04544562
20.3 g (0.1 mole) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone were stirred with 18.1 g (0.12 mole) of 2-methoxybutyryl chloride and 10.1 g (0.1 mole) of triethylamine in 200 ml of absolute acetone for 3 hours at room temperature. 100 g of ice were added, the crystals were filtered off under suction and recrystallized from dimethylformamide/water, and the resulting product was dried at 50° C. under greatly reduced pressure. 18.9 g (63%) of 6-[p-(2-methoxybutyrylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone were obtained. Mp.: 151°-152° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 0.1 mole, 20.3 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2-methoxybutyryl chloride | 0.12 mole, 18.1 g | COC(C(=O)Cl)CC | C5H9ClO2
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 6-[p-(2-methoxybutyrylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 18.9 g, 63% | COC(C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)CC | C16H21N3O3
